US07790898B2
(3-bromophenyl)-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-methanone
The compound of Example 21 was prepared according to the general preparation protocol A from 3-bromobenzoyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | 3-bromobenzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | (3-bromophenyl)-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-methanone | BrC=1C=C(C=CC1)C(=O)N1CC(CCC1)(C1=CC(=CC=C1)OC)O | C19H20BrNO3
